US07384951B2
a) 6-[[3,5-Dimethyl-1-(2-pyridyl)-1H-pyrazol-4-yl]methyl-1,2,3,4-tetrahydro-3-methyl-1-(1-methylethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid methyl ester
Prepared from 6-(bromomethyl)-1,2,3,4-tetrahydro-3-methyl-1-(1-methylethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid methyl ester, zinc acetylacetonate hydrate and 2-hydrazinopyridine by the method of example 1 part e) to give the sub-title compound.

reactant | 6-(bromomethyl)-1,2,3,4-tetrahydro-3-methyl-1-(1-methylethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid methyl ester | COC(=O)C1=C(SC=2N(C(N(C(C21)=O)C)=O)C(C)C)CBr | C13H15BrN2O4S
reactant | 2-hydrazinopyridine | N(N)C1=NC=CC=C1 | C5H7N3
catalyst | zinc acetylacetonate hydrate | C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.[Zn]
product | [3,5-Dimethyl-1-(2-pyridyl)-1H-pyrazol-4-yl]methyl-1,2,3,4-tetrahydro-3-methyl-1-(1-methylethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid methyl ester | COC(=O)C1=C(SC=2N(C(N(C(C21)=O)C)=O)C(C)C)CC=2C(=NN(C2C)C2=NC=CC=C2)C | C23H25N5O4S
